### PR TITLE
Add Cava.Lib.VecConstEq

### PR DESCRIPTION
**Pull request by atondwal**
Implement an efficient constant equality for vectors #657

Currently we compare against `nat`s, so the constants can be out of range (in
which case they're truncated). Eventually these should be replaced by
`Fin 2^n`s, which should prevent this.

### CODE REVIEW

**Comment by satnam6502** [comment]
Great! Can I change my mind and not have `n` and `v` implicit:
```coq
  Definition vecConstEq (n v : nat)
                        (inp: signal (Vec Bit n)) :
                        cava (signal Bit
```
For the tests you should be able to wrote:
```coq
Example ex1 : vecConstEq 8 42 (N2Bv_sized 8 42) = true.
Proof. trivial. Qed.
```

**Comment by satnam6502** [comment]
Also if you moved `Local Open Scope N_scope.` to just before your tests, you don't neet to qualify `0%nat`.

File: cava/Cava/Lib/VecConstEq.v [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+(*                                                                          *)
+(* Unless required by applicable law or agreed to in writing, software      *)
+(* distributed under the License is distributed on an "AS IS" BASIS,        *)
+(* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied. *)
+(* See the License for the specific language governing permissions and      *)
+(* limitations under the License.                                           *)
+(****************************************************************************)
+
+Require Import Coq.Vectors.Vector.
+Require Import Coq.ZArith.ZArith.
```
Comment (jadephilipoom) [inline cava/Cava/Lib/VecConstEq.v:18]: Why `ZArith`? Possibly unused import?

File: cava/Cava/Lib/VecConstEq.v [hunk 2]
```diff
@@ -0,0 +1,63 @@
...
+Require Import ExtLib.Structures.Monads.
+Import VectorNotations.
+Import MonadNotation.
```
Comment (jadephilipoom) [inline cava/Cava/Lib/VecConstEq.v:21]: These should all be imported by `Cava.Cava` and shouldn't need to be imported separately -- let me know if there's a problem and I'll investigate.

File: cava/Cava/Lib/VecConstEq.v [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+Local Open Scope vector_scope.
+Local Open Scope monad_scope.
+Local Open Scope N_scope.
+
+Require Import Cava.Cava.
+Require Import Cava.Lib.Vec.
```
Comment (jadephilipoom) [inline cava/Cava/Lib/VecConstEq.v:27]: `Vec` is `Require`d in `Cava.Cava` but not `Import`ed because it has lots of name collisions with Coq's `Vector`. Best practice here is to not import it and just write `Vec.map` where you need.

**Review by jadephilipoom — APPROVED** [review]
Thanks! LGTM as-is, but I've got some nitpicks and opinions below.

File: cava/Cava/Lib/VecConstEq.v [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+
+
+Section WithCava.
+  Context {signal} `{Cava signal}.
+
+  (* Check if [inp] is bit-equal to the first [n] bits of [v] *)
+  (* TODO(atondwal): use [Fin] to disallow numbers larger than [2^n]. c.f. [ex5] *)
```
[the remark this answers is not in the document]
Comment (blaxill) [reply cava/Cava/Lib/VecConstEq.v:34]: > I strongly recommend avoiding Fin -- it includes hidden proof terms

I'm not suggesting we use Fin.t, but I don't think this is quite true, Fin.t is 

~~~Coq
Inductive t : nat -> Set :=
|F1 : forall {n}, t (S n)
|FS : forall {n}, t n -> t (S n).
~~~

albeit a lot of its functions use proofs internally (e.g. of_nat to_nat)

[the remark this answers is not in the document]
Comment (jadephilipoom) [reply cava/Cava/Lib/VecConstEq.v:34]: True -- I misspoke saying that it contains proof terms itself. However, using it effectively usually involves proof terms and most of the standard library functions that use it have proof terms.

**Comment by atondwal** [comment]
For the tests you should be able to write:
```
Example ex1 : vecConstEq 8 42 (N2Bv_sized 8 42) = true.
Proof. trivial. Qed.
```

Hmm? `N2Bv_sized 8 42` is a Bvector 8 and I need a `signal (Vec Bit 8)`. I've rewritten the examples to be a bit more like that, though.

File: cava/Cava/Lib/VecConstEq.v (hunk 2 above)
Comment (atondwal) [reply cava/Cava/Lib/VecConstEq.v]: Oh yep. I'd accidentally made Cava.Cava a circular dependency, imported all the stuff inside it I needed, and then fixed the circular dependency problem, but I forgot to human `build_cleaner` it.

**Comment by satnam6502** [comment]
> For the tests you should be able to write:
> 
> ```
> Example ex1 : vecConstEq 8 42 (N2Bv_sized 8 42) = true.
> Proof. trivial. Qed.
> ```
> 
> Hmm? `N2Bv_sized 8 42` is a Bvector 8 and I need a `signal (Vec Bit 8)`. I've rewritten the examples to be a bit more like that, though.

The expression `signal (Vec Bit 8)` **is** `Bvector 8` i.e. `Vector.t bool 8` for the simulation/semantic interpretation.

**Comment by atondwal** [comment]
Ah, so I can do that so long as they're outside the `WithCava` section, I see!

**Review by satnam6502 — APPROVED** [review]
Great work! Thank you!

**Comment by atondwal** [comment]
I don't have permission to merge into `main`!

**Comment by satnam6502** [comment]
> I don't have permission to merge into `main`!

Please try now.

**Review by blaxill — APPROVED** [review]
Lgtm too, thanks
